US07618975B2
(2-Chloro-quinazolin-4-yl)-ethyl-(4-methoxy-phenyl)-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-amine and ethyl iodide by a procedure similar to example 36 (58% yield). 1H NMR (CDCl3): 7.69-7.72 (m, 1H), 7.53 (ddd, J=8.1, 6.9 and 1.5 Hz, 1H), 7.09-7.14 (m, 2H), 6.94-6.70 (m, 3H), 6.83-6.87 (m, 1H), 4.13 (q, J=7.2 Hz, 2H), 3.87 (s, 1H), 1.30 (t, J=6.9 Hz, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=CC=C(C=C1)OC | C15H12ClN3O
reactant | ethyl iodide | C(C)I | C2H5I
product | (2-Chloro-quinazolin-4-yl)-ethyl-(4-methoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C1=CC=C(C=C1)OC)CC | C17H16ClN3O
